US06699992B2
28.6 g of methyl 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate (0.088 mol), 160 ml of acetate acid, 100 ml of water and 18 ml of concentrated sulfuric acid were stirred for 40 minutes at 100-110° C. The resulting mixture was cooled and filtered. The precipitate was re-crystallized from choroform-ethanol to afford 25.2 g of 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (Gaticarboxylic acid, 0.081 mol) in 91.8% yield, mp 195-199° C.

reactant | methyl 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.088 mol, 28.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)Cl)F)=O)C(=O)OC | C15H13ClFNO4
reactant | acetate | 160 ml | C(C)(=O)[O-]
reactant | sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.081 mol, 25.2 g, 91.8% yield | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)Cl)F)=O)C(=O)O | C14H11ClFNO4
